### PR TITLE
Add rewrite rules to Coq

### PR DESCRIPTION
**Pull request by yannl35133**
NB: last bench https://github.com/coq/coq/pull/18038#issuecomment-1907137535

This adds support for rewrite rules [(Coq roadmap)](https://github.com/coq/ceps/blob/coq-roadmap/text/069-coq-roadmap.md#rewrite-rules), [(associated CEP)](https://github.com/coq/ceps/pull/50).

What is currently missing :
- [x] A toggle for enabling rewrite rules (which makes it explicit that support is experimental and extremely unsafe)
- [x] Documentation (needs proof-reading)
- [x] More comprehensive tests
- [x] Changelog entry instead of README paragraph

### CODE REVIEW

File: clib/cList.ml [hunk 1]
```diff
@@ -315,6 +315,15 @@ let map2 f l1 l2 = match l1, l2 with
...
   | _ -> invalid_arg "List.map2"
 
+let rec concat_map_loop f p = function
+  | [] -> ()
+  | x :: l -> concat_map_loop f (copy p (f x)) l
+
+let concat_map f l =
+  let dummy = { head = Obj.magic 0; tail = [] } in
+  concat_map_loop f dummy l;
+  dummy.tail
```
Comment (proux01) [inline clib/cList.ml:325]: If this is provided by some OCaml > 4.09, maybe adding a comment like `(* remove when requiring OCaml >= 4.xx *)` would help cleaning the day we'll raise the upper bound on OCaml.

Comment (yannl35133) [reply clib/cList.ml:325]: It depends if you want to remove operations on lists when they merely become provided by the Stdlib, or when they are as fast as this implementation (basically when the tail mod cons versions are used). In the former case, the bound is `4.10.0` while in the latter case it is `5.1.0`. I don't think my uses need a fast version, but I don't know for the future uses

Comment (proux01) [reply clib/cList.ml:325]: Might be safer to mention 5.1.0 then.

Comment (yannl35133) [reply clib/cList.ml:325]: I can add it, but all functions which are reimplementations of stdlib functions using `'a cell` will be as redundant once 5.1.0 and its tmc list operations are required

**Comment by gares** [comment]
I think we could discuss at a call a strategy to review and merge this one. It is large and could be split into smaller pieces.

I know it is some work but it would also mean we can integrate it step by step (and finding what a good step is, is part of the job to be done).  Maybe what I'd like to see is a more detailed technical roadmap, at the level of detail of a stream of PRs.

**Comment by SkySkimmer** [comment]
@coqbot bench

**Comment by yannl35133** [comment]
The last two commits are somewhat experimental :
- the first one adds a flag to prevent pattern variables from being unified as evars. It is quite invasive as a flag, and I wonder if there is a simpler way to do this
- the second one outright changes two behaviours of Coq at elaboration, but I don't understand why the existing behaviour was as it was :
  + pattern variables would now be named as evars (previously their given names was only stored as part of the location field)
  + evar instances bodies and types are now unified against the expected ones, instead of only being checked for conversion

Please tell me if that broke anything, or if you have suggestions

**Comment by SkySkimmer** [comment]
`unfold_fix` produces non termination even without any rewrite rules:
~~~coq
Set Allow Rewrite Rules.

#[unfold_fix] Symbol raise : forall P: Type, P.

Definition bad : False := @Wf.Fix_F unit (fun _ _ => True) (fun _ => False) (fun x f => f x I) tt (raise _).

Eval lazy in bad.
~~~
Note that this relies on `Fix_F` being defined as a fixpoint which does *not* start with a match on the structural argument, ie something that can't be done with recursors.

**Comment by yannl35133** [comment]
> `unfold_fix` produces non termination even without any rewrite rules

This behaviour is now removed, with unfold_fix symbols unfolding a fixpoint only in an app context / only when the eliminations are all applications

**Comment by yannl35133** [comment]
I cannot see a way for simpl to be able to reduce on rules with a match without either slowing it down even when no symbols are involved (i.e. I look for symbols at each step) or changing its general behaviour on match

**Comment by SkySkimmer** [comment]
J'ai mal écrit ma rewrite rule ou c'est un bug que
~~~

**Comment by SkySkimmer** [comment]
Did I make a mistake in my rewrite rule or is it a bug that
~~~
Set Allow Rewrite Rules.

#[unfold_fix] Symbol raise : forall P: Type, P.

Rewrite Rules raise_rew :=
  match raise (@Acc ?A ?R ?x) as a return ?P with
  | Acc_intro _ _ => _
  end ==> raise (?P@{a := raise (@Acc ?A ?R ?x)}).

Definition bad : False := @Wf.Fix_F unit (fun _ _ => True) (fun _ => False) (fun x f => f x I) tt (raise _).

Definition bad' := Eval lazy in bad.
~~~
produces `Error: The term "raise (Acc (fun _ _ : unit => True) tt)" has type "Acc (fun _ _ : unit => True) tt" which should be Set, Prop or Type.`?
ie Eval lazy produces an ill typed term which contains `forall y : raise (Acc (fun _ _ : unit => True) tt), ...` as a subterm.

**Comment by yannl35133** [comment]
The bug is fixed, but now I see that the types for lambdas to abstract the extended contexts may be wrong in instances where substitutions happen at the same time as the rewriting. They are immediately erased by beta reduction in most cases, but if a user wants to enable rewriting but not beta it will show.
```coq
Set Allow Rewrite Rules.
Symbol raise : forall P: Type, P.
Rewrite Rule raise_rew :=
  match raise (@eq ?A ?a ?b) as e in _ = b return ?P with
  | eq_refl => _
  end ==> raise ?P@{b := _; e := raise (?a = ?b)}.

Definition bad :=
  Eval lazy delta in
  let n := 0 in
  match raise (n = n) in (_ = a) return (n = a) with
  | eq_refl => raise _
  end.
```
(that's `let n := 0 in eq_raise n n n (raise _) (raise _)` after successively delta and beta)
I am afraid that computing the correct types would be slow, or would need a significant rewrite of the machine, similar in size as the substitution of evars with extended context the hack replaces

**Comment by SkySkimmer** [comment]
Is this expected?
~~~coq
Set Allow Rewrite Rules.

#[unfold_fix] Symbol raise : forall P: Type, P.

Rewrite Rules raise_rew :=
  raise (forall x:?A, ?B) ==> fun x:?A => raise ?B
.

Eval lazy in raise (forall x:nat, x = 0). (* works: fun x => raise (x = 0) *)

Eval lazy in raise (forall x y:nat, x = y). (* does nothing *)

Lemma gen A B : raise (forall x:A, B x) = fun x => raise (B x).
Proof. lazy. reflexivity. Defined.

Lemma hide T : T -> T. Proof. auto. Qed.

Lemma specific : raise (forall x y:nat, x = y) = fun x => raise (forall y, x = y).
Proof.
  apply hide,gen.
Defined.

Definition specific' := Eval lazy in specific.
(* type error (SR broken) *)
~~~

**Comment by yannl35133** [comment]
> Is this expected?

No, it is now fixed

**Comment by SkySkimmer** [comment]
Now we have non termination with 
~~~coq
Set Allow Rewrite Rules.

#[unfold_fix] Symbol raise : forall P: Type, P.

Rewrite Rules raise_rew :=
  raise (forall x:?A, ?B) ==> fun x:?A => raise ?B
with
  match raise (@Acc ?A ?R ?x) as a return ?P with
  | Acc_intro _ _ => _
  end ==> raise (?P@{a := raise (@Acc ?A ?R ?x)}).

Definition bad : False := @Wf.Fix_F unit (fun _ _ => True) (fun _ => False) (fun x f => f x I) tt (raise _).

Eval lazy in bad.
~~~
I don't know if this one can be fixed.

(meanwhile
~~~coq
Definition Fix_F' {A} {R:A->A->Prop} P
  (F:forall x : A, (forall y : A, R y x -> P y) -> P x)
  : forall x, Acc R x -> P x
  := fix Fix_F x a {struct a} :=
    match a with
    | Acc_intro _ b => F x (fun y h => Fix_F y (b y h))
    end.

Definition good : False := @Fix_F' unit (fun _ _ => True) (fun _ => False) (fun x f => f x I) tt (raise _).

Eval lazy in good.
(* raise False *)
~~~
does the right thing)

**Comment by yannl35133** [comment]
@herbelin Can I have your opinion on the example presented by @SkySkimmer (I give a minimized version below :)
```coq
Inductive stream := T (_ : stream).

Fixpoint f s : False := f match s with T s' => s' end.
Fixpoint g s : False := match s with T s' => g s' end.

Set Allow Rewrite Rules.
#[unfold_fix] Symbol raise : forall P: Type, P.
Rewrite Rule raise_rew := match raise stream as s return ?P with T _ => _ end ==> raise ?P@{s := raise stream}.

Goal forall s, f s = g s. now induction s.
Defined.

Eval lazy in g (raise _).
Fail Timeout 1 Eval lazy in f (raise _).
```

**Comment by herbelin** [comment]
Is the point that `f match ... with ... => ... end` behaves like `match ... with ... => f ... end` holds when `f` is strict?

File: checker/mod_checking.ml [hunk 2]
```diff
@@ -77,6 +77,20 @@ let check_constant_declaration env opac kn cb opacify =
...
   Environ.add_constant kn cb env, opac
 
+let check_rewrite_rule env lab i (symb, rule) =
+  Flags.if_verbose Feedback.msg_notice (str "  checking rule:" ++ Label.print lab ++ str"#" ++ Pp.int i);
+  let { lhs_pat; rhs } = rule in
+  let symb_cb = Environ.lookup_constant symb env in
+  match symb_cb.const_body with Symbol unfix_fold ->
+    ignore unfix_fold
+  | _ -> ignore @@ invalid_arg "Rule defined on non-symbol";
+  ignore lhs_pat;
```
Comment (Alizter) [inline checker/mod_checking.ml:87]: Are these meant to be ignored? If so `_lhs_pat` is probably better.

Comment (yannl35133) [reply checker/mod_checking.ml:87]: In my mind it's supposed to be a stub, making explicit the fact that the only reason the elements are ignored is because I don't know yet what will need to be checked

Comment (yannl35133) [reply checker/mod_checking.ml]: I now do meaningful checks here

**Comment by SkySkimmer** [comment]
Using a little absurd nonconfluence, we can make Coq crash:
~~~coq
Set Allow Rewrite Rules.

Symbol Devil : bool -> bool.

Rewrite Rule devil :=
  Devil ?b ==> false
with
  Devil true ==> true.

Lemma Devil_false b : Devil b = false.
Proof. reflexivity. Defined.

Lemma Devil_true : Devil true = true.
Proof. reflexivity. Defined.

Lemma ministry_of_truth : true = false.
Proof.
  transitivity (Devil true).
  - symmetry;exact Devil_true.
  - apply Devil_false.
Defined.

Definition successor_of_nothing : nat :=
  match ministry_of_truth in eq _ b return if b then bool else nat with
    eq_refl => false
  end.

(* Eval vm_compute in pred successor_of_nothing. segfaults *)

Definition ignore {A} (x:A) := tt.

Definition beginning_of_the_world : ignore (pred successor_of_nothing) = tt.
Proof. lazy;reflexivity. Qed.

Lemma end_of_the_world : tt = tt.
Proof.
  vm_compute.
  exact beginning_of_the_world.
Defined. (* segfault *)
~~~
This is essentially https://github.com/coq/coq/issues/16891, but unlike in master we can get the segfault by calling vm_compute from the kernel (in the `Defined` for `end_of_the_world`), and no `*_no_check` tactics were used.

**Comment by SkySkimmer** [comment]
This is probably what @silene meant in https://github.com/coq/ceps/pull/50#issuecomment-734792941
>The proposal would indeed make it trivial for a user to accidentally corrupt the memory of the Coq process.

**Comment by yannl35133** [comment]
> Using a little absurd nonconfluence, we can make Coq crash:
I fixed it by disabling VM compute and native compute when rewrite rules are enabled, whereas the other reduction machines fail more gracefully

File: kernel/environ.ml [hunk 3]
```diff
@@ -544,6 +544,14 @@ let set_allow_sprop b env =
 let sprop_allowed env = env.env_typing_flags.sprop_allowed
 
 let set_rewrite_rules_allowed b env =
+  (* We need to be safe with reduction machines *)
+  let flags = typing_flags env in
+  let env = set_typing_flags
+    { flags with
+      enable_VM = flags.enable_VM && not b;
+      enable_native_compiler = flags.enable_native_compiler && not b }
+    env
```
Comment (SkySkimmer) [inline kernel/environ.ml:553]: I think this should be done in set_typing_flags, not in the convenience wrapper set_rewrite_rules_allowed.
set_typing_flags is the one that actually enforces invariants.

Comment (yannl35133) [reply kernel/environ.ml:553]: I don't understand what you mean, especially as `rewrite_rules_allowed` is not a typing flag but a "regular environment flag"

Comment (SkySkimmer) [reply kernel/environ.ml:553]: oh right I got confused

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 4]
```diff
@@ -0,0 +1,144 @@
...
+     with 0 ++ ?n ==> ?n
+     with S ?n ++ ?m ==> S (?n ++ ?m).
+
+Pattern syntax
+--------------
+
+Patterns are read from a subpart of terms, with the following syntax :
+
+  .. prodn::
+     pat ::= @qualid {? @univ_annot }
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:76]: `pat` is too short and generic a name and can be confused with `pattern` nonterminals.  Maybe `rw_pat` instead?

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 5]
```diff
@@ -0,0 +1,144 @@
...
+     | fun ({+ @name } {? : @arg_pat}) => @arg_pat
+     | forall ({+ @name } {? : @arg_pat}), @arg_pat
+     arg_pat ::= ? @name | _ | @pat
+
+where :n:`@qualid {? @univ_annot }` can refer to symbols, inductives and constructors, but not arbitrary constants.
+
+Equivalently, we can see a pattern as a pair of a rigid head and a list of eliminations :
+
+  .. prodn::
+     head_pat ::= @qualid {? @univ_annot }
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:89]: Maybe `rw_head_pat`?

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 6]
```diff
@@ -0,0 +1,144 @@
+.. _rewrite_rules:
+
+User-defined rewrite rules
+==========================
+
+.. warning::
+
+   The status of rewrite rules is highly experimental.
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:8]:
```suggestion
   Rewrite rules are highly experimental.
```

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 7]
```diff
@@ -0,0 +1,144 @@
...
+   .. coqtop:: all
+
+      Set Allow Rewrite Rules.
+      Symbol pplus : nat -> nat -> nat.
+      Notation "a ++ b" := (pplus a b).
+
+Declaring rules
+---------------
+
+Rewrite rules have two parts named pattern (lhs) and production (rhs).
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:49]: This sentence should appear just after the grammar for 'rewrite_rule'.

Also, "production" typically means the entire rule.  Maybe something like "replacement" would be a better choice of terminology.

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 8]
```diff
@@ -0,0 +1,144 @@
...
+     Rewrite Rule pplus_rewrite :=
+          ?n ++ 0 ==> ?n
+     with ?n ++ S ?m ==> S (?n ++ ?m)
+     with 0 ++ ?n ==> ?n
+     with S ?n ++ ?m ==> S (?n ++ ?m).
+
+Pattern syntax
+--------------
+
+Patterns are read from a subpart of terms, with the following syntax :
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:73]:
```suggestion
Valid patterns are a subset of :n:`term`\s, with the following syntax:
```

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 9]
```diff
@@ -0,0 +1,144 @@
...
+     head_pat ::= @qualid {? @univ_annot }
+     | fun ({+ @name } {? : @arg_pat}) => @arg_pat
+     | forall ({+ @name } {? : @arg_pat}), @arg_pat
+     elimination ::= <> {+ @pat }
+     | <> .( @qualid {? @univ_annot } )
+     | match <> {? as @name in @qualid {* {| @name | _ } } } {? return @arg_pat } with {*| @qualid {* {| @name | _ } } => @arg_pat } end
+     pat ::= @head_pat {* @elimination }
+     arg_pat ::= ? @name | _ | @pat
+
+To be a valid pattern, it also must have a symbol as its head pattern, since the mechanism to trigger rewrite rules needs a symbol.
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:98]:
```suggestion
Patterns must have a symbol (as defined by :cmd:`Symbol`) as its head pattern to be valid.
```

Is there an error message if there's no symbol?

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 10]
```diff
@@ -0,0 +1,144 @@
...
+     | @pat {+ @arg_pat }
+     | @pat .( @qualid {? @univ_annot } )
+     | match @pat {? as @name in @qualid {* {| @name | _ } } } {? return @arg_pat } with {? %| } {*| @qualid {* {| @name | _ } } => @arg_pat } end
+     | fun ({+ @name } {? : @arg_pat}) => @arg_pat
+     | forall ({+ @name } {? : @arg_pat}), @arg_pat
+     arg_pat ::= ? @name | _ | @pat
+
+where :n:`@qualid {? @univ_annot }` can refer to symbols, inductives and constructors, but not arbitrary constants.
+
+Equivalently, we can see a pattern as a pair of a rigid head and a list of eliminations :
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:86]: I don't see how giving two grammars for the same thing will help readers.  It seems more likely to confuse them.

What do mean by "rigid head"?  If you're trying to distinguish between a patterns that match only on the head of a term versus matching anywhere on the term, please say so explicitly.

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 11]
```diff
@@ -0,0 +1,144 @@
...
+     | match <> {? as @name in @qualid {* {| @name | _ } } } {? return @arg_pat } with {*| @qualid {* {| @name | _ } } => @arg_pat } end
+     pat ::= @head_pat {* @elimination }
+     arg_pat ::= ? @name | _ | @pat
+
+To be a valid pattern, it also must have a symbol as its head pattern, since the mechanism to trigger rewrite rules needs a symbol.
+
+Productions
+-----------
+
+Productions are regular terms, which can also refer to matched holes in the pattern, through the :n:`? @name` syntax.
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:103]:
```suggestion
Productions are :n:`term`\s, which can include specify substitution of pattern variables with the :n:`? @name` syntax.
```

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 12]
```diff
@@ -0,0 +1,144 @@
...
+
+
+Higher-order pattern holes
+--------------------------
+
+Pattern production lambda, prod and match introduce new variables in the context which need to be taken into account in the production.
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:109]:
```suggestion
Pattern production lambda, prod and `match` introduce new variables in the context which need to be taken into account in the production.
```

Replace "lambda" with `fun` and whatever else it refers to.  No need to use terminology if a literal explanation is succinct and clear.  What is "prod"?  "Taken into account" meaning (mostly) picking a fresh name?

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 13]
```diff
@@ -0,0 +1,144 @@
...
+To this end, the user can add what each new variable should become in the production, using the syntax :n:`? @name @%{ {+; @name := @term } %}`.
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:110]:
```suggestion
To this end, the user can specify the value for each new variable using the syntax :n:`? @name @%{ {+; @name := @term } %}`.
```

IIUC

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 14]
```diff
@@ -0,0 +1,144 @@
...
+      Symbol id : forall (A : Type), A -> A.
+      Rewrite Rule id_rew :=
+         id (forall (x : ?A), ?P) ?f ==> fun (x : ?A) => id ?P (?f x).
+
+Rewrite rules, type preservation, confluence and termination
+------------------------------------------------------------
+
+Currently, rewrite rules are completely untyped. This means that the types of the production
+and of the pattern are not checked (it is not even completely clear what the type of a pattern is).
+This also means that reduction using a rewrite rule have no reason to preserve types, and even welltypedness at all.
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:129]:
```suggestion
This also means that reductions using rewrite rules have no reason to preserve types, and even welltypedness at all.
```

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 15]
```diff
@@ -0,0 +1,144 @@
...
+   The command-line flag ``-allow-rewrite-rules`` enables rewrite rules at
+   startup.
+
+   .. exn:: Rewrite rule declaration requires enabling the flag "Allow Rewrite Rules".
+      :undocumented:
+
+Declaring symbols
+-----------------
+
+Rewrite rules operate on symbols, which are their own kind of constants.
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:33]: How about more detail here?  How do symbols differ from constants and why do they exist?

**Review by jfehrle — COMMENTED** [review]
Wording suggestions.

The documentation could use more work.  If readers can understand the doc without having to experiment too much they're more likely to try/use the feature.  More explanation and examples would help.

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 16]
```diff
@@ -0,0 +1,144 @@
...
+
+  .. prodn::
+     rewrite_rule ::= @term ==> @term
+
+
+  .. coqtop:: all
+
+     Rewrite Rule pplus_rewrite :=
+          ?n ++ 0 ==> ?n
+     with ?n ++ S ?m ==> S (?n ++ ?m)
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: I also find it more pleasant, so I implemented your suggestion

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 17]
```diff
@@ -0,0 +1,144 @@
...
+
+Level of support
+----------------
+
+Rewrite rules have been integrated into the kernel and the most used parts of the upper layers.
+Notably, reduction machines simpl, cbn and cbv can reduce on rewrite rules, with some limitations (e.g. simpl cannot reduce on rules which contain a match).
+Also, regular unification can work with rewrite rules, as well as apply's unification mechanism in a limited manner (only if the pattern has no match or projections).
+
+On the other hand, some operations are not supported, such as declaring rules in sections and some interactions with modules.
+The VM and native reductions also do not understand rewrite rules.
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: Done

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 18]
```diff
@@ -0,0 +1,144 @@
...
+Rewrite rules have two parts named pattern (lhs) and production (rhs).
+When a rule is applied, the term is matched against the pattern, subterms aligned with pattern holes are collected
+and substitued into the production which is returned.
+
+.. cmd:: Rewrite {| Rule | Rules } @ident := @rewrite_rule {* with @rewrite_rule }
+  :name: Rewrite; Rule; Rules
+
+   Rewrite rules are declared in blocks, which bear a name.
+
+  .. prodn::
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: I added this, but I don't know how it works, especially as I don't copy verbatim the existing grammar (`rw_pattern` is not distinguished from `term` at this stage)

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 19]
```diff
@@ -0,0 +1,144 @@
+.. _rewrite_rules:
+
+User-defined rewrite rules
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst:3]: Done

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 4 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: I opted for `rw_pattern`

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 6 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst:8]: I went for the wording used in the doc about SProp

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 7 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: Done.
I don't really like replacement, so I left "right-hand side" instead

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 8 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: I rephrased slightly

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 10 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: I removed the first grammar, which was the least understandable.

I made the sentence clearer by saying "head-pattern" instead of simply "head", but those are the subclass of patterns which don't have a toplevel elimination, that would be put on the stack in a reduction machine.

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 12 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: I rephrased this sentence.
"Taking into account" is more than picking a fresh name, since the variables may be substituted why any term in the right-hand side

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 13 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: I rephrased slightly

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 14 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: Done

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 15 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst:35]: I added a sentence to explain their difference to defined constants and axioms

**Comment by yannl35133** [comment]
@jfehrle Thank you very much for your comments on the documentation. I went through them and improved the documentation

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 18 above)
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: Now that I got reminded that I has to `make doc_gram_rsts`, I see what this does.
I added `rw_pattern` to be an alias of `term`, and it works well.

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 20]
```diff
@@ -0,0 +1,144 @@
...
+---------------
+
+Rewrite rules have two parts named pattern (lhs) and production (rhs).
+When a rule is applied, the term is matched against the pattern, subterms aligned with pattern holes are collected
+and substitued into the production which is returned.
+
+.. cmd:: Rewrite {| Rule | Rules } @ident := @rewrite_rule {* with @rewrite_rule }
+  :name: Rewrite; Rule; Rules
+
+   Rewrite rules are declared in blocks, which bear a name.
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: When confluence is going to be checked, the notion of `block` will be necessary, since it is going to be the unit at which the check is done. I think it makes sense to introduce the word already, even if it only means "set" for now.

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 21]
```diff
@@ -0,0 +1,178 @@
...
+--------------
+
+Patterns are a subset of terms which follow a more rigid syntax.
+It is easier to understand them as being a rigid head-pattern, inside of an elimination context:
+
+  .. prodn::
+     rw_head_pattern ::= @qualid {? @univ_annot }
+     | fun ({+ @name } {? : @rw_pattern_arg}) => @rw_pattern_arg
+     | forall ({+ @name } {? : @rw_pattern_arg}), @rw_pattern_arg
+     elim_context ::= []
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:87]: The `[]` are literal characters in this production?

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 22]
```diff
@@ -0,0 +1,178 @@
...
+
+In a few words, patterns are terms with pattern variables (:n:`?@name`),
+but those may not appear on the left of applications or as the discriminee of a match or a primitive projection;
+furthermore a pattern may not have let-bindings or non-symbol constants.
+
+Finally, a valid pattern needs its head head-pattern to be a symbol.
+
+
+Right-hand sides
+----------------
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:105]:
```suggestion
```

Let's not have a one-sentence section here.  Move the sentence up by the Rewrite command description or drop if already covered.

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 23]
```diff
@@ -0,0 +1,178 @@
...
+     | 0 ++ ?n ==> ?n
+     | S ?n ++ ?m ==> S (?n ++ ?m).
+
+Pattern syntax
+--------------
+
+Patterns are a subset of terms which follow a more rigid syntax.
+It is easier to understand them as being a rigid head-pattern, inside of an elimination context:
+
+  .. prodn::
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:83]: The problem with adding productions directly in the doc is that there's no checking whatsoever that the grammar matches the code.  I have a queasy feeling that the grammar below may be inaccurate or misleading.

Will the code generate error messages if the user specifies something that's valid in a `pattern` that's not valid for Rewrite?

`elim_context` seems like an arbitrary and fairly meaningless name.  Is there a better name?

It would be good if you make the relationship between the permitted subset of `term` described here with the underlying definitions of term syntax in the `term_match` and `term_forall_or_fun` nonterminals and using similar ordering and naming--to facilitate comparing Rewrite to the general case for patterns.  Also hyperlink to `term_match` and `term_forall_or_fun`.

Is there a better name for `rw_pattern_arg`?

It would be very helpful to add several examples with `coqtop::`, both for simple and more complex cases.

**Review by jfehrle — COMMENTED** [review]
More thoughts

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 7 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: I got convinced that `replacement` was suitable.

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 9 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: There is quite a lot of error messages that can be raised when the underlying term fails its parsing as a pattern, I don't think it would be interesting to document them

File: doc/changelog/01-kernel/18038-rewrite-rules.rst [hunk 24]
```diff
@@ -0,0 +1,5 @@
+- **Added:**
+  Added a mechanism to add user-defined rewrite rules to Coq's reduction mechanisms;
+  see chapter :ref:`rewrite_rules`
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/changelog/01-kernel/18038-rewrite-rules.rst]: Done

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 25]
```diff
@@ -0,0 +1,178 @@
...
+
+Symbols
+-----------------
+
+Rewrite rules operate on symbols, which are their own kind of constants.
+They stand in-between defined constants and axioms,
+in that they don't always reduce as defined constants do,
+but they may still reduce using the provided rules, unlike axioms.
+
+.. cmd:: {| Symbol | Symbols } {| {+ ( @assumpt ) } | @assumpt }
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: Done

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 26]
```diff
@@ -0,0 +1,178 @@
...
+   and manipulating these will most often result in anomalies.
+
+
+This section describes the extension of Coq's reduction mechanisms with user-defined rewrite rules,
+as a means to extend definitional equality. It should not be confused with the :ref:`rewrite tactic <rewritingexpressions>`
+or :ref:`setoid rewriting <generalizedrewriting>` which operate on propositional equality and other relations which are defined in Coq.
+
+The use of rewrite rules is guarded behind a flag, which can be enabled
+either by passing ``-allow-rewrite-rules`` to the
+Coq program or by turning the :flag:`Allow Rewrite Rules` flag on.
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst:20]: I need to convey that rewrite rules *have* to be enabled manually, so I went with the style used in the doc for SProp

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 27]
```diff
@@ -0,0 +1,178 @@
...
+
+.. flag:: Allow Rewrite Rules
+
+   This :term:`flag` enables the use of rewrite rules.
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst:24]: I used the style used by the doc for SProp

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 28]
```diff
@@ -0,0 +1,178 @@
...
+
+Rewrite rules operate on symbols, which are their own kind of constants.
+They stand in-between defined constants and axioms,
+in that they don't always reduce as defined constants do,
+but they may still reduce using the provided rules, unlike axioms.
+
+.. cmd:: {| Symbol | Symbols } {| {+ ( @assumpt ) } | @assumpt }
+   :name: Symbol; Symbols
+
+   As a command, `Symbol` binds an :n:`ident` to a :n:`type` as a symbol.
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: Done

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 29]
```diff
@@ -0,0 +1,178 @@
...
+
+  .. insertprodn rewrite_rule rewrite_rule
+
+  .. prodn::
+     rewrite_rule ::= {? @univ_decl %|- } @rw_pattern ==> @term
+
+Rewrite rules have two parts simply named left-hand side or pattern and right-hand side.
+When a rule is applied, the term is matched against the pattern,
+subterms aligned with pattern variables are collected
+and substituted into the right-hand side which is returned.
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: I rephrased this sentence

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 30]
```diff
@@ -0,0 +1,178 @@
...
+
+.. cmd:: Rewrite {| Rule | Rules } @ident := {? %| } {+| @rewrite_rule }
+  :name: Rewrite Rule; Rewrite Rules
+
+   The command declares a named block of rewrite rules.
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: Done

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 31]
```diff
@@ -0,0 +1,178 @@
...
+  .. prodn::
+     rw_head_pattern ::= @qualid {? @univ_annot }
+     | fun ({+ @name } {? : @rw_pattern_arg}) => @rw_pattern_arg
+     | forall ({+ @name } {? : @rw_pattern_arg}), @rw_pattern_arg
+     elim_context ::= []
+     | @elim_context {+ @rw_pattern_arg }
+     | @elim_context .( @qualid {? @univ_annot } )
+     | match @elim_context {? as @name } {? in @pattern } {? return @rw_pattern_arg } with {*| @pattern => @rw_pattern_arg } end
+     rw_pattern ::= @elim_context[@rw_head_pattern]
+     rw_pattern_arg ::= ?@name | _ | @rw_pattern
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: Done

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 32]
```diff
@@ -0,0 +1,178 @@
...
+     Rewrite Rule pplus_rewrite :=
+     | ?n ++ 0 ==> ?n
+     | ?n ++ S ?m ==> S (?n ++ ?m)
+     | 0 ++ ?n ==> ?n
+     | S ?n ++ ?m ==> S (?n ++ ?m).
+
+Pattern syntax
+--------------
+
+Patterns are a subset of terms which follow a more rigid syntax.
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: Although not defined formally, `rigid` is the difference between a regular term and a term that can be parsed into a pattern. This is hopefully clearer with my latest phrasing.

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 33]
```diff
@@ -0,0 +1,178 @@
...
+      Symbol pplus : nat -> nat -> nat.
+      Notation "a ++ b" := (pplus a b).
+
+Rewrite rules
+---------------
+
+  .. insertprodn rewrite_rule rewrite_rule
+
+  .. prodn::
+     rewrite_rule ::= {? @univ_decl %|- } @rw_pattern ==> @term
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst:57]: I don't understand why that would be more consistent

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 21 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst:94]: See the comment on `elim_context[rw_head_pattern]`

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 22 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: Done

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 23 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst:92]: Rewrite patterns are parsed from terms, so they don't have a grammar that can be imported from mlg files.

If a term fails to be parsed as a pattern, an error will be raised (there is no "default pattern").

`elim_context` is a term context which represents allowed eliminations for patterns. Naming things is difficult, and I don't have a better name.

I assume the reader is somewhat familiar with the syntax of terms and can pick up on my simplified description of them. I can't simply include `term_match` and `term_forall_or_fun` since they only mention terms and I mention either `rw_pattern_arg` or `elim_context` depending in the occurences. I'm not sure simply mentioning them will help when an intuitive understanding is enough.

Same as `elim_context`, I don't have a better name. As the grammar presents, they stand for the patterns where pattern variables are allowed.

In the examples I give, there is already an instance of every construction except bound variables (which work as any other head pattern), lambdas (which work exactly like products) and primitive projections (which are a much simpler construction than match). I don't understand what cases you feel are missing

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 25 above)
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst:40]: I went too fast; this can't be changed since it comes from the grammar, and I won't change the grammar for assumptions on my own.

[the remark this answers is not in the document]
Comment (jfehrle) [reply doc/sphinx/addendum/rewrite-rules.rst:40]: Adding this to `common.edit_mlg` before the SPLICE of `assum_list` (around line 2258) should change them all in the doc:

``
assum_list: [
| DELETE LIST1 assum_coe
| LIST1 assum_coe
]
```

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 27 above)
[the remark this answers is not in the document]
Comment (jfehrle) [reply doc/sphinx/addendum/rewrite-rules.rst:24]: SProp doesn't follow the doc convention, so not a good model to follow in this case.

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 26 above)
[the remark this answers is not in the document]
Comment (jfehrle) [reply doc/sphinx/addendum/rewrite-rules.rst:20]: We try keep the language succinct for readability; "Rewrite rules are enabled ..." implies that they are disabled by default.  Extra emphasis is a distraction, and "guarded" is vague.  Don't take the SProp doc a model--the documentation style isn't fully consistent, but we try to make new things as good as we reasonably can.

If you really like it this way, it's not a big deal.

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 6 above)
Comment (jfehrle) [reply doc/sphinx/addendum/rewrite-rules.rst:8]: SProp doesn't follow the doc convention, so not a good model to follow

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 33 above)
[the remark this answers is not in the document]
Comment (jfehrle) [reply doc/sphinx/addendum/rewrite-rules.rst:57]: If a nonterminal is only used in a single command, the convention is to define the symbol just below the command/tactic that uses the symbol (to the extent possible).

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 34]
```diff
@@ -0,0 +1,178 @@
...
+
+  .. prodn::
+     rw_head_pattern ::= @qualid {? @univ_annot }
+     | fun ({+ @name } {? : @rw_pattern_arg}) => @rw_pattern_arg
+     | forall ({+ @name } {? : @rw_pattern_arg}), @rw_pattern_arg
+     elim_context ::= []
+     | @elim_context {+ @rw_pattern_arg }
+     | @elim_context .( @qualid {? @univ_annot } )
+     | match @elim_context {? as @name } {? in @pattern } {? return @rw_pattern_arg } with {*| @pattern => @rw_pattern_arg } end
+     rw_pattern ::= @elim_context[@rw_head_pattern]
```
[the remark this answers is not in the document]
Comment (jfehrle) [reply doc/sphinx/addendum/rewrite-rules.rst]: `[]` is a `@pattern` that contains a hole?  The way you have it is apt to cause considerable confusion for anyone trying to read the grammar.  `elim_context[]` isn't a valid identifier for a nonterminal either.  Seem like you should refer to `@pattern` instead and in the text state the semantic restriction (that it should have a hole).

And in `@elim_context[@rw_head_pattern]`, the brackets are also your unconventional way of doing things?   Meaning a pattern that contains a `rw_head_pattern`??? Reading it, I wouldn't know how to use the production.

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 35]
```diff
@@ -0,0 +1,180 @@
...
+
+Universe polymorphic rules
+--------------------------
+
+Rewrite rules support universe and sort quality polymorphism.
+Universe levels and sort quality variables must be declared with the notation :n:`@{q1 q2|u1 u2+|+}` (the same notation as universe instance declarations);
+each variable must appear exactly once in the pattern.
+If any universe level isn't bound in the rule, as is often the case with the level of a pattern variable when it is a type, you need to make the universe instance extensible (with the final +).
+Universe level constraints, as inferred from the pattern, must imply those given, which in turn must imply the constraints needed for the replacement.
+You can make the declared constraints extensible so all inferred constraints from the left-hand side are used for the replacement.
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:140]: Could you split these long lines?

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 6 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: You convinced me, I changed to your suggestion

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 25 above)
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: In the end I changed the production directly from the grammar file, Coq's test-suite still passes so we'll see with the full CI

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 26 above)
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: I went for a slightly more explicit, but still succinct phrasing

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 27 above)
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: You convinced me, I changed to your suggestion

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 34 above)
[the remark this answers is not in the document]
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: I don't know why I persevered so long with this unorthodox presentation, when replacing the "hole" with its only instantiation made it orthodox again. The grammar should be better now

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 36]
```diff
@@ -0,0 +1,192 @@
...
+furthermore a pattern may not have let-bindings, (co-)fixpoints or non-symbol constants.
+
+As a formal grammar, it is easier to understand them with the separation between head-pattern (:n:`@rw_head_pattern`)
+and eliminations (non-base-case constructions for :n:`@rw_pattern`):
+
+  .. prodn::
+     rw_pattern ::= @rw_head_pattern
+     | @rw_pattern {+ @rw_pattern_arg }
+     | @rw_pattern .( @qualid {? @univ_annot } )
+     | match @rw_pattern {? as @name } {? in @pattern } {? return @rw_pattern_arg } with {*| @pattern => @rw_pattern_arg } end
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:95]:
```suggestion
     | match @rw_pattern {? as @name } {? in @pattern } {? return @rw_pattern_arg } with {? | } {*| @pattern => @rw_pattern_arg } end
```

Minor point: I expect the code accepts the optional `|` in the underlying construct:

image


This grammar is much easier to understand.

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 37]
```diff
@@ -0,0 +1,192 @@
...
+     rw_head_pattern ::= @ident
+     | @qualid {? @univ_annot }
+     | fun ({+ @name } {? : @rw_pattern_arg}) => @rw_pattern_arg
+     | forall ({+ @name } {? : @rw_pattern_arg}), @rw_pattern_arg
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:99]: Based on the underlying grammar (`term_forall_or_fun`), I expect the parentheses are not required.  And maybe multiple binders will work.  OTOH if your grammar misses a few cases, I think we can live with that in something marked "experimental".  Precisely describing a subset of an existing grammar by hand is hard to get right.

image

image

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 38]
```diff
@@ -0,0 +1,192 @@
...
+
+User-defined rewrite rules
+==========================
+
+.. warning::
+
+   Rewrite rules are highly experimental.
+
+   In particular, ill-typed rewrite rules will lead to mistyped expressions,
+   and manipulating these will most often result in anomalies.
```
Comment (jfehrle) [inline doc/sphinx/addendum/rewrite-rules.rst:11]: Also, IIUC, users can define unsound rewrite rules that allow a proof of False (similar to the risks of using `Axiom`).

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 36 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: Done

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 37 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst]: I added the + for multiple binders, but I don't think it would be useful to be complete : patterns are parsed from the parsed representation of terms, so all constructions that get resolved to the basic ones during the initial parsing are allowed (destructuring let, notations, etc.). It would help no-one for all of this to be included I believe

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 38 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst:11]: They definitely can (they can simply write `Symbol f : False.`), but being able to write mistyped expressions is far worse than breaking consistency : Coq can work fine with an inconsistent system (with a few limitations), but it will stop almost immediately when it encounters a mistyped expression.

Comment (jfehrle) [reply doc/sphinx/addendum/rewrite-rules.rst:11]: I was implicitly suggesting that you add a sentence mentioning this, since correctness is the raison d'être for Coq.

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 37 above)
Comment (jfehrle) [reply doc/sphinx/addendum/rewrite-rules.rst]: The other way to approach it is to just refer to the underlying nonterminals and then describe in text what parts of them are not supported for rewrite rules.  Hopefully you get a clear error message when you use anything that's not supported.  But I'll leave it up to your choice.

File: doc/sphinx/addendum/rewrite-rules.rst [hunk 39]
```diff
@@ -50,21 +49,23 @@ but they may still reduce using the provided rules, unlike axioms.
...
+.. cmd:: Rewrite {| Rule | Rules } @ident := {? %| } {+| @rewrite_rule }
+  :name: Rewrite Rule; Rewrite Rules
 
   .. insertprodn rewrite_rule rewrite_rule
 
   .. prodn::
      rewrite_rule ::= {? @univ_decl %|- } @rw_pattern ==> @term
 
-Rewrite rules have two parts simply named left-hand side or pattern and right-hand side.
+Declares a named block of rewrite rules.
```
Comment (SkySkimmer) [inline doc/sphinx/addendum/rewrite-rules.rst:60]: What is the name for?

Currently it shares a namespace with constants/inductives (ie `Axiom foo : nat. Rewrite Rules foo := ...` is not allowed), is this necessary?

I guess the name is currently used in the "rewrite rules not supported here" errors, is that all?

Since there's a name it would be nice to be able to use Print on it, although currently I don't think we store enough info to print something user readable (mostly because variable names are dropped).

File: clib/cList.mli [hunk 40]
```diff
@@ -112,6 +112,10 @@ val map2 : ('a -> 'b -> 'c) -> 'a list -> 'b list -> 'c list
 val map_left : ('a -> 'b) -> 'a list -> 'b list
 (** As [map] but ensures the left-to-right order of evaluation. *)
 
+val concat_map : ('a -> 'b list) -> 'a list -> 'b list
+(** Like OCaml [List.conxat_mapi] but tail-recursive. Alternatively,
```
Comment (SkySkimmer) [inline clib/cList.mli:116]: typo

File: checker/values.ml [hunk 41]
```diff
@@ -339,6 +339,9 @@ let v_retro_action =
 let v_retroknowledge =
   v_sum "module_retroknowledge" 1 [|[|List v_retro_action|]|]
 
+let v_rewrule = Any
```
Comment (SkySkimmer) [inline checker/values.ml:342]:
```suggestion
let v_rewrule = Fail "rewrite rule"
```

File: kernel/cClosure.ml [hunk 42]
```diff
@@ -1480,6 +1624,277 @@ and case_inversion info tab ci u params indices v =
...
+      if not @@ Construct.CanOrd.equal constr constr' then None else
+      let fus = match_universes pu u in
+      Some (fus, elims)
+    | _ -> None) patterns states
+    in
+    let fuus, elims = Array.split (Array.map Status.split fuuselims) in
+    let states = Array.map2 (merge (fun ({ usubst; _ } as state) fuus -> { state with usubst = usubst @ fuus })) states fuus in
+    let loc = LocStart { elims; context; head=t; stack=stk; next=Continue next } in
+    match_main info tab ~pat_state states loc
+  | FAtom t' -> begin match [@ocaml.warning "-4"] kind t' with Sort s ->
```
Comment (SkySkimmer) [inline kernel/cClosure.ml:1802]:
```suggestion

  | FAtom t' -> begin match [@ocaml.warning "-4"] kind t' with
    | Sort s ->

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 39 above)
Comment (yannl35133) [reply doc/sphinx/addendum/rewrite-rules.rst:60]: The name is the only way I found to allow for rewrite rules to be included in the vo (through module entries).

They share a namespace with constants and inductives because I didn't think they deserved their own, even if they can't conflict with anything currently. (We may want something like `cbn [rules_set]` in the future, so this would be the correct namespace.)

I guess so, but I don't know if it's worth keeping these names and in what form.

File: kernel/declarations.mli [hunk 43]
```diff
@@ -287,6 +288,44 @@ type mutual_inductive_body = {
...
+
+type rewrite_rule = {
+  lhs_pat : instance_mask * pattern_elimination list;
+  rhs : constr;
+}
+
+(** {6 Representation of rewrite rules in the kernel } *)
+
+type rewrite_rules_body = {
+  rewrules_rules : (Constant.t * rewrite_rule) list;
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply kernel/declarations.mli:329]: More like `ps[c@{u]`, since eliminations may be other things than applications.
You're right about universes, and terms are matched in the same ascending order, so `Rel 1` is the first hole found.

This design is good in that patterns are linear by construction, but I don't know whether this property is really useful here or if it should be restricted to MetaCoq.

File: kernel/safe_typing.ml [hunk 44]
```diff
@@ -1190,6 +1203,7 @@ let end_module l restype senv =
   let mbids = List.rev_map fst params in
   let mb = build_module_body params restype senv in
   let newenv = Environ.set_universes (Environ.universes senv.env) oldsenv.env in
+  let newenv = Environ.set_rewrite_rules_allowed (Environ.rewrite_rules_allowed senv.env) newenv in
   let senv' = propagate_loads { senv with env = newenv } in
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply kernel/safe_typing.ml:1207]: I don't really trust that rewrite rules can't be erased through some module operation, so I'm not sure about removing the flag from Environ.
@ppedrot has got the strongest opinions regarding safety with this flag, do you have an opinion ?

File: vernac/comRewriteRule.ml [hunk 45]
```diff
@@ -0,0 +1,514 @@
...
+      let su, ba =
+        match universe_level_subst_var_index usubst u with
+        | Some (lvlold, lvl) -> update_invtblu1 ~loc ~alg:true evd lvlold lvl su, true
+        | None -> su, false
+      in
+      (st, sq, su), PSQSort (bq, ba)
+
+
+let warn_irrelevant_pattern =
+  CWarnings.create ~name:"irrelevant-pattern" ~default:CWarnings.Enabled
```
Comment (SkySkimmer) [inline vernac/comRewriteRule.ml:161]:
```suggestion
  CWarnings.create ~name:"irrelevant-pattern"
```

Comment (SkySkimmer) [reply vernac/comRewriteRule.ml:161]: same for the other warnings

File: kernel/sorts.ml [hunk 46]
```diff
@@ -346,6 +346,11 @@ let quality = let open Quality in function
 | SProp -> QConstant QSProp
 | QSort (q, _) -> QVar q
 
+let algebraic = function
+  | Type u -> u
+  | QSort (_, u) -> u
+  | Prop | SProp | Set -> Univ.Universe.type0
+
```
Comment (SkySkimmer) [inline kernel/sorts.ml:353]: move this block next to its user

File: kernel/safe_typing.ml (hunk 44 above)
[the remark this answers is not in the document]
Comment (SkySkimmer) [reply kernel/safe_typing.ml:1207]: >I don't really trust that rewrite rules can't be erased through some module operation, so I'm not sure about removing the flag from Environ.

I don't understand what you mean. How does duplicating the flag in Environ defend against "some module operation"?

File: kernel/cClosure.ml [hunk 47]
```diff
@@ -1674,4 +2089,17 @@ let unfold_ref_with_args infos tab fl v =
     let c = match [@ocaml.warning "-4"] fl with ConstKey c -> c | _ -> assert false in
     let rargs, a, nargs, v = get_native_args1 op c v in
     Some (a, (Zupdate a::(Zprimitive(op,c,rargs,nargs)::v)))
-  | Undef _ | OpaqueDef _ | Primitive _ | Symbol _ -> None
+  | Symbol (b, r) ->
+    let unfold_fix = b && red_set infos.i_flags fFIX in (* TODO *)
+    let _, u = match fl with ConstKey c -> c | RelKey _ | VarKey _ -> assert false in
```
[the remark this answers is not in the document]
Comment (SkySkimmer) [reply kernel/cClosure.ml]: or we could put the instance in the Symbol value returned by Table.value_of

File: kernel/cClosure.mli [hunk 48]
```diff
@@ -204,14 +204,16 @@ val set_conv : (clos_infos -> clos_tab -> fconstr -> fconstr -> bool) -> unit
...
+
 val lift_fconstr      : int -> fconstr -> fconstr
 val lift_fconstr_vect : int -> fconstr array -> fconstr array
 
 val mk_clos      : usubs -> constr -> fconstr
 val mk_clos_vect : usubs -> constr array -> fconstr array
 
 val kni: clos_infos -> clos_tab -> fconstr -> stack -> fconstr * stack
-val knr: clos_infos -> clos_tab -> fconstr -> stack -> fconstr * stack
+val knr: clos_infos -> clos_tab -> pat_state:(fconstr, stack, Constr.rel_context, 'a) depth -> fconstr -> stack -> 'a
```
Comment (SkySkimmer) [inline kernel/cClosure.mli:216]: knr (and therefore depth) also don't need to be exposed

File: kernel/cClosure.ml [hunk 49]
```diff
@@ -1344,25 +1386,113 @@ let conv : (clos_infos -> clos_tab -> fconstr -> fconstr -> bool) ref
...
+  | Nil: ('constr * 'stack, 'ret) escape -> ('constr, 'stack, 'context, 'ret) depth
+  | Cons: ('constr, 'stack, 'context) resume_state * ('constr, 'stack, 'context, 'ret) depth -> ('constr, 'stack, 'context, 'ret) depth
+
+let extract_or_kill filter a status =
+  (* Array.split @@ Array.map2 step a status
+   * with step elim status -> match elim, status with
+   * | Ignore, s -> Ignore, s
+   * | Check e, s when filter e = None -> Ignore, Dead
+   * | Check e, s when filter e = Check p -> Check p', s
+   *)
```
Comment (SkySkimmer) [inline kernel/cClosure.ml:1443]: what does this mean?

File: pretyping/pretyping.ml [hunk 50]
```diff
@@ -705,9 +722,14 @@ struct
...
-      let evk =
-        try Evd.evar_key id sigma
-        with Not_found -> error_evar_not_found ?loc:locid !!env sigma id in
+      let sigma, evk =
+        try sigma, Evd.evar_key id sigma
+        with
+        | Not_found when not flags.unify_patvars ->
+            let k = Evar_kinds.(MatchingVar (FirstOrderPatVar id)) in
+            let sigma, uj_val, _ = new_typed_evar env sigma ~naming:(IntroIdentifier id) ~src:(loc,k) tycon in
+            sigma, fst (destEvar sigma uj_val)
```
Comment (SkySkimmer) [inline pretyping/pretyping.ml:731]: What's going on here?

File: vernac/comRewriteRule.ml [hunk 51]
```diff
@@ -0,0 +1,291 @@
...
+          ++ str".")
+
+let update_invtblu1 ~loc evd lvl (curvaru, tbl) =
+  succ curvaru, tbl |> Int.Map.update lvl @@ function
+    | None -> Some curvaru
+    | Some k as c when k = curvaru -> c
+    | Some k ->
+        CErrors.user_err ?loc
+          Pp.(str "Universe variable "
+            ++ Termops.pr_evd_level evd (Univ.Level.var lvl)
```
[the remark this answers is not in the document]
Comment (SkySkimmer) [reply vernac/comRewriteRule.ml]: I still don't think the hole numbers are particularly useful to the user but whatever.

File: kernel/declarations.mli (hunk 43 above)
[the remark this answers is not in the document]
Comment (SkySkimmer) [reply kernel/declarations.mli:335]: >This design is good in that patterns are linear by construction

Isn't that something we may want to change someday?

Regardless I don't think it's enough of a benefit to justify picking this design IMO.

File: pretyping/retyping.ml [hunk 52]
```diff
@@ -354,8 +354,11 @@ let relevance_of_term env sigma c =
       | Fix ((_,i),(lna,_,_)) -> (lna.(i)).binder_relevance
       | CoFix (i,(lna,_,_)) -> (lna.(i)).binder_relevance
       | Proj (p, r, _) -> r
+      | Evar (evk, _) ->
+          let Evd.EvarInfo evi = Evd.find sigma evk in
```
Comment (SkySkimmer) [inline pretyping/retyping.ml:358]: should be find_undefined

File: doc/sphinx/addendum/rewrite-rules.rst (hunk 39 above)
Comment (SkySkimmer) [reply doc/sphinx/addendum/rewrite-rules.rst:60]: >We may want something like cbn [rules_set] in the future, so this would be the correct namespace

We could always have some separate syntax for that like `cbn [!rules]` but I guess it's ok.

The doc should mention that the names share that namespace IMO.

File: kernel/cClosure.ml (hunk 49 above)
Comment (yannl35133) [reply kernel/cClosure.ml:1443]: This is the operation that is done right below, but expressed in a more readable way. With how unoptimized the rest of my code is here, I should probably just use this code instead of the marginally faster one

File: pretyping/pretyping.ml (hunk 50 above)
Comment (yannl35133) [reply pretyping/pretyping.ml:731]: @ppedrot told me I should not have modified `pretype_patvar` without adding a flag, so I used a flag and moved the behavior to `pretype_evar` since there is no reason to use `patvar` and pattern parsing anymore.
It should do the same as before

File: plugins/extraction/extract_env.ml [hunk 53]
```diff
@@ -212,6 +212,8 @@ let rec extract_structure_spec env mp reso = function
       let specs = extract_structure_spec env mp reso msig in
       if logical_spec s then specs
       else begin Visit.add_spec_deps s; (l,Spec s) :: specs end
+  | (l, SFBrules _) :: msig ->
+      Modops.error_rules_not_supported "Extract_env.extract_structure_spec" l
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply plugins/extraction/extract_env.ml]: I now warn for extracted symbols separately, tracking what rules are seen during extraction (your counterexample showing that this is not complete). Should I try to be complete ?

**Comment by yannl35133** [comment]
@coqbot bench

File: test-suite/success/rewrule.v
Comment (Alizter) [inline test-suite/success/rewrule.v:1]: Would you be able to add some comments to this test explaining what each of the tests are meant to test, expected behaviour etc.

This would save other developers from having to understand the source code when running into unexpected behaviour.

**Comment by SkySkimmer** [comment]
So now we have an option and a command line argument? Not sure if we want both.

File: test-suite/success/rewrule.v
Comment (yannl35133) [reply test-suite/success/rewrule.v:1]: I reorganised the test and tried to explain the different things that are tested, I hope it's better now

File: doc/tools/coqrst/coqdomain.py [hunk 54]
```diff
@@ -1093,7 +1097,10 @@ def add_coqtop_output(self):
         """Add coqtop's responses to a Sphinx AST
 
         Finds nodes to process using is_coqtop_block."""
-        with CoqTop(color=True) as repl:
+        additional_args = []
+        for node in self.document.traverse(CoqtopBlocksTransform.is_SPHINXCOQEXTRAFLAGS_field):
+            additional_args.extend((node.children[1].rawsource).split())
```
Comment (cpitclaudel) [inline doc/tools/coqrst/coqdomain.py:1102]: LGTM, but:

- I suggest changing the name to something like `coqtop_args`, since this is not specific to Sphinx
- Using `shlex.split` to do slightly smarter splitting

With these two things taken together, I'd write something like this:

```
arg_fields = self.document.traverse(CoqtopBlocksTransform.is_coqtop_args_field)
additional_args = [arg for field in arg_fields for arg in shlex.split(field.children[1].rawsource)]
```

File: test-suite/success/rewrule.v
Comment (Alizter) [reply test-suite/success/rewrule.v:1]: Thanks!

**Comment by SkySkimmer** [comment]
@coqbot run full ci

**Comment by SkySkimmer** [comment]
It looks like coqchk accepts rewrite rules without any special flag and without saying anything more than `checking rule:...` in non silent mode, is that what we want? I thin it should at least say "rewrite rules are enabled" at the end.

**Comment by yannl35133** [comment]
> It looks like coqchk accepts rewrite rules without any special flag and without saying anything more than `checking rule:...` in non silent mode, is that what we want? I thin it should at least say "rewrite rules are enabled" at the end.

Do you mean in the summary printed with `--output-context` or always ?

**Comment by yannl35133** [comment]
@coqbot run full ci

File: checker/check_stat.ml [hunk 55]
```diff
@@ -28,6 +28,10 @@ let pr_impredicative_set env =
   if is_impredicative_set env then str "Theory: Set is impredicative"
   else str "Theory: Set is predicative"
 
+let pr_rewrite_rules env =
+  if rewrite_rules_allowed env then str "Theory: Rewrite rules are allowed (subject reduction might be broken)"
```
[the remark this answers is not in the document]
Comment (yannl35133) [reply checker/check_stat.ml:32]: I was under the impression that every breakage induced by rewrite rules could be explained by a SR failure, what are you thinking about ?

[the remark this answers is not in the document]
Comment (SkySkimmer) [reply checker/check_stat.ml:32]: It's more about the implication, there are many possible subject reduction failures which don't break consistency (for instance the type theory of Lean).
ie when we read "subject reduction is broken" you mean "subject reduction and most other good properties are broken" but it could also be read as "subject reduction is broken but most other good properties are preserved".

[the remark this answers is not in the document]
Comment (yannl35133) [reply checker/check_stat.ml]: It's now more explicit

File: kernel/constant_typing.ml [hunk 56]
```diff
@@ -171,6 +171,24 @@ let infer_primitive env { prim_entry_type = utyp; prim_entry_content = p; } =
...
+  let r = Typeops.assumption_of_judgment env j in
+  let t = Vars.subst_univs_level_constr usubst j.uj_val in
+  {
+    const_hyps = [];
+    const_univ_hyps = Instance.empty;
+    const_body = Symbol symb_entry_unfold_fix;
+    const_type = t;
+    const_body_code = None;
+    const_universes = univs;
+    const_relevance = r;
```
Comment (SkySkimmer) [inline kernel/constant_typing.ml:186]: You need to substitute universes (same as the infer_parameter)

**Review by ppedrot — APPROVED** [review]
Alea jacta est.

**Comment by Alizter** [comment]
FTR am I correct in thinking this doesn't support rewriting arbitrary terms but only symbols? For example, something I wanted to try was:
```coq

Inductive paths {A} (x : A) : A -> Type :=
| idpath : paths x x.

Axiom Circle : Set.
Symbol base : Circle.
Symbol loop : paths base base.
Symbol Circle_rec : forall (P : Type), P -> (paths base base) -> Circle -> P.

Definition ap {A B} (f : A -> B) {x y} (p : paths x y) : paths (f x) (f y) :=
  match p in paths _ y return paths (f x) (f y) with
  | idpath _ => idpath (f x)
  end.

Rewrite Rule loop_rew :=
| Circle_rec _ ?b ?loop base ==> ?b
| ap (Circle_rec _ ?b ?loop) loop ==> ?loop
.
```
but that doesn't seem to work. IIRC Agda is able to accept that definition, so is it something that might be possible with the right backdoor?

**Comment by TheoWinterhalter** [comment]
No, you can only add rewrite rules to symbols. Otherwise, reduction would trigger unfolding before it triggers the rule. There might some workarounds but I don't think anything has been implemented. If you want the rule for `ap` then I think you probably should define it with a symbol and rewrite rules.

**Comment by yannl35133** [comment]
You can also define your rewrite rule using the normal form for the left-hand side, it can be made into a pattern
```coq
| match loop with idpath _ => idpath (Circle_rec ?B ?b ?loop base) end ==> ?loop
```

**Review by SkySkimmer — APPROVED** [review]

**Comment by SkySkimmer** [comment]
@coqbot run full ci

**Comment by SkySkimmer** [comment]
I'll probably merge tomorrow.

**Comment by Alizter** [comment]
@yannl35133 With that pattern Coq complains about an unknown existential variable. Is that expected?

**Comment by yannl35133** [comment]
This is indeed not expected. I found the reason and I'll see how I can fix it

**Comment by SkySkimmer** [comment]
Do you want to wait for the fix to merge or do you prefer doing it after merge?

**Comment by SkySkimmer** [comment]
offline: don't care 

@coqbot merge now

**Comment by Alizter** [comment]
@yannl35133 Should I create an issue about the unexpected error?

**Comment by yannl35133** [comment]
@Alizter Sorry for the delay, I opened the issue and a PR to fix half of the issue, the other half will need more work

**Comment by Zimmi48** [comment]
FTR, the refman page should have been created in `language/core`, not in `addendum/` which I only kept to avoid changing the URLs of existing pages. Well, I notice this too late to fix that (now that it's been released, let's keep the URL as for the other legacy addendum pages).
